US08791134B2
1-Benzoyl-4-nitrosopiperidin-4-yl acetate was prepared from 1-benzoyl-piperidin-4-one oxime and lead tetraacetate using conditions of General Method 2. 1H NMR (400 MHz, chloroform-d) δ 7.42-7.48 (5H, m), 4.40-4.86 (1H, m), 3.63-4.13 (1H, m), 3.14-3.52 (2H, m), 2.26 (3H, s), 2.05-2.19 (2H, m), 1.80-2.04 (2H, m).

reactant | 1-benzoyl-piperidin-4-one oxime | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=NO | C12H14N2O2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 1-Benzoyl-4-nitrosopiperidin-4-yl acetate | C(C)(=O)OC1(CCN(CC1)C(C1=CC=CC=C1)=O)N=O | C14H16N2O4
